US08058431B2
6) 1-Methyl-4-methylsulfanyl-2-phenyl-thieno(3,2-d)pyrimidin-1-ium iodide
500 mg 1-Methyl-2-phenyl-1H-thieno(3,2-d)pyrimidine-4-thione was slowly added to 5 ml (80 mmol) iodomethane at 0° C. and stirred for 1 h at room temperature. The solution was filtrated and the residue washed with dichloromethane.

reactant | 1-Methyl-2-phenyl-1H-thieno(3,2-d)pyrimidine-4-thione | 500 mg | CN1C(=NC(C2=C1C=CS2)=S)C2=CC=CC=C2 | C13H10N2S2
reactant | iodomethane | 80 mmol, 5 ml | IC | CH3I
product | 1-Methyl-4-methylsulfanyl-2-phenyl-thieno(3,2-d)pyrimidin-1-ium iodide | [I-].C[N+]1=C(N=C(C2=C1C=CS2)SC)C2=CC=CC=C2 | InChI=1S/C14H13N2S2.HI/c1-16-11-8-9-18-12(11)14(17-2)15-13(16)10-6-4-3-5-7-10;/h3-9H,1-2H3;1H/q+1;/p-1
